* D:\INGEÑERIA\Circuitos Electronicos II\Resoluciones ejercicios\TP1.1 - Fuentes no reguladas\simus\Problema 3 TP1.1.asc
V1 N001 0 SINE(0 311.12 50)
D1 N001 N002 D
D2 N003 N004 D
D3 N005 0 D
D4 0 N004 D
D5 N005 N003 D
R§M N005 N004 100
RM N002 N003 633.3
RH N002 0 24.2
.model D D
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.dio
.tran .1
.backanno
.end
